US09382226B2
Step A. 3-(cyclopropylamino)-4-nitrobenzonitrile
To a stirred solution of 3-fluoro-4-nitrobenzonitrile (2.0 g, 0.012 mol) in DCM (20 ml), was added K2CO3 (3.3 g, 0.024 mol) and cyclopropyl amine (6.7 ml, 0.096 mol) and the resulting solution was continued to stir at room temperature for 3 h. The reaction was diluted with cold water and extracted with dichloromethane (3×100 ml). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under vacuum to afford the title compound 3-(cyclopropylamino)-4-nitrobenzonitrile as a yellow solid. 1H NMR (400 MHz, CDCl3), δ: 8.24-8.22 (d, J=8.8 Hz, 1H), 8.07 (bs, 1H), 7.64 (s, 1H), 6.94-6.92 (d, J=8.8 Hz, 1H), 2.59-2.58 (m, 1H), 1.25-0.97 (m, 2H), 0.71-0.58 (m, 2H). MS (M+1): 204.

reactant | 3-fluoro-4-nitrobenzonitrile | 0.012 mol, 2.0 g | FC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3FN2O2
reactant | K2CO3 | 0.024 mol, 3.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclopropyl amine | 0.096 mol, 6.7 ml | C1(CC1)N | C3H7N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(cyclopropylamino)-4-nitrobenzonitrile | C1(CC1)NC=1C=C(C#N)C=CC1[N+](=O)[O-] | C10H9N3O2
